US08247576B2
33B. 4-[2,2-Bis-(4-chloro-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester
To a solution of bis-(4-chloro-phenyl)-acetaldehyde (3.74 mmol) in methanol under a nitrogen atmosphere, N-BOC-piperazine (1.05 g, 5.61 mmol) was added ???, the reaction mixture was stirred for 1 hour before addition of sodium cyanoborohydride (0.28 g, 4.49 mmol). The reaction mixture was stirred for 18 hours, water added (3 ml) and the solvent removed under reduced pressure. The residue was partitioned between dichloromethane and water, the organic layer was separated, dried (MgSO4), filtered and concentrated. Purified over flash silica chromatography eluting with ethyl acetate/petroleum ether (3:7) to yield the title compound (0.18 g, 11% yield for steps 30A and 30B combined). LC/MS: (PS-A2) Rt 2.66 E[M−BOC+H]+ 335.02.

reactant | bis-(4-chloro-phenyl)-acetaldehyde | 3.74 mmol | ClC1=CC=C(C=C1)C(C=O)C1=CC=C(C=C1)Cl | C14H10Cl2O
reactant | N-BOC-piperazine | 5.61 mmol, 1.05 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium cyanoborohydride | 4.49 mmol, 0.28 g | C(#N)[BH3-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-[2,2-Bis-(4-chloro-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.18 g, 11% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C23H28Cl2N2O2
